US06294558B1
4-[5-[3-Chloro-4-(2-furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-fluorobenzenesulfonamide
The title compound was prepared according to the procedure of Example 60 using 3-fluoro-4-sulfamoylphenylhydrazine hydrochloride instead of 3-fluoro-4-(methylsulfonyl)phenylhydrazine hydrochloride and 4,4,4-trifluoro-1-[3-chloro-4-(2-furyl)phenyl]butane-1,3-dione instead of 4,4,4-trifluoro-1-[4-(2-furyl)phenyl]butane-1,3-dione in step 2.

reactant | 3-fluoro-4-sulfamoylphenylhydrazine hydrochloride | Cl.FC=1C=C(C=CC1S(N)(=O)=O)NN
reactant | 4,4,4-trifluoro-1-[3-chloro-4-(2-furyl)phenyl]butane-1,3-dione | FC(C(CC(=O)C1=CC(=C(C=C1)C=1OC=CC1)Cl)=O)(F)F | C14H8ClF3O3
product | 4-[5-[3-Chloro-4-(2-furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-fluorobenzenesulfonamide | ClC=1C=C(C=CC1C=1OC=CC1)C1=CC(=NN1C1=CC(=C(C=C1)S(=O)(=O)N)F)C(F)(F)F | C20H12ClF4N3O3S
